US06943180B2
2-methyl-(L)-proline, methyl ester hydrochloride (95 gm, 52.9 mmol) was dissolved in a mixture (1:1) of dry THF and CH2Cl2 (250 mL). A solution of 3,5-dichlorobenzenesulfonyl chloride (13.0 gm, 52.9 mmol) in dry CH2Cl2 (20 mL) was added. The reaction was cooled in an ice bath and diisopropylethylamine (20.5 gm, 158.6 mmol) was added. The ice bath was removed and the reaction mixture was stirred overnight at rt. The reaction was concentrated and dried to a tan solid (18.68 gm). This solid was purified on a Biotage 40M chromatography system eluted with 10% EtOAc in hexanes to yield N-(3,5-dichlorobenzenesulfonyl)-2-methyl-(L)-proline, methyl ester as a pure white solid (16.8 gm, 85% yield).

reactant | 2-methyl-(L)-proline, methyl ester hydrochloride | 52.9 mmol, 95 gm | Cl.C[C@@]1(NCCC1)C(=O)OC
reactant | 3,5-dichlorobenzenesulfonyl chloride | 52.9 mmol, 13.0 gm | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | diisopropylethylamine | 158.6 mmol, 20.5 gm | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-dichlorobenzenesulfonyl)-2-methyl-(L)-proline, methyl ester | 16.8 gm, 85% yield | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@](C(=O)OC)(CCC1)C | C13H15Cl2NO4S
